US04957928
First 3.3 g (14.8 mmol) of 1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrobromide (guvacoline hydrobromide) and then 6.1 g (47.3 mmol) of N-ethyl-N,N-diisopropylamine are added to a solution of 4.5 g (13.5 mmol) of 3-[2-(p-toluenesulphonyloxy)ethyl]chroman in 70 ml of absolute dimethylformamide. The mixture is stirred for 16 hours at 60° and, after cooling, is concentrated by evaporation under a high vacuum. Water is added to the oily residue and extraction is carried out with diethyl ether. The combined organic phases are extracted with 2N hydrochloric acid. The combined hydrochloric acid extracts are rendered alkaline, while cold, with sodium hydroxide solution (30% strength) and extracted with dichloromethane. The combined dichloromethane phases are dried over sodium sulphate and concentrated by evaporation in vacuo. 3.97 g (97.7%) of 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester are obtained in the form of a yellow oil. The 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrochloride produced therefrom using hydrochloric acid in diethyl ether crystallises from methanol/diethyl ether and melts at 175°-177°.

reactant | 1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester hydrobromide | 14.8 mmol, 3.3 g | Br.COC(=O)C=1CNCCC1
reactant | N-ethyl-N,N-diisopropylamine | 47.3 mmol, 6.1 g | C(C)N(C(C)C)C(C)C | C8H19N
reactant | 3-[2-(p-toluenesulphonyloxy)ethyl]chroman | 13.5 mmol, 4.5 g | C1(=CC=C(C=C1)S(=O)(=O)OCCC1COC2=CC=CC=C2C1)C | C18H20O4S
solvent | dimethylformamide | 70 ml | CN(C=O)C | C3H7NO
product | 1-[2-(chroman-3-yl)ethyl]-1,2,5,6-tetrahydropyridine-3-carboxylic acid methyl ester | 3.97 g, 97.7% | COC(=O)C=1CN(CCC1)CCC1COC2=CC=CC=C2C1 | C18H23NO3
